US08859535B2
3-Methoxymethylene-8-oxa-bicyclo[3.2.1]octane
A solution of sodium bis(trimethylsilyl)amide 1M in THF (24.48 ml, 24.48 mmol) was added drop wise to a suspension of (methoxymethyl)triphenylphosphonium chloride (8.39 g, 24.48 mmol) in THF (98 ml) at −40° C. Stirring was continued for 0.5 h at −40° C. and then the solution of 8-oxa-bicyclo[3.2.1]octan-3-one [CAS #77745-32-5] (1.93 g, 15.3 mmol) in THF (20 ml) was added at −40° C. The suspension was allowed to warm to RT and stirring was continued for 6 h. The reaction mixture was quenched with a saturated solution of NH4Cl and extracted with EtOAc (2×). The combined organic phases were washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The crude product was purified by silica gel column chromatography (eluting with a gradient of heptane-EtOAc 97:3 to 0:100) yielding the title compound as a slightly yellow oil (1.71 g, 11.09 mmol, 72%): 1H-NMR (400 MHz, CDCl3): δ 1.58-2.43 (m, 8H), 3.54 (s, 3H), 4.41 (m, 2H), 5.85 (s, 1H)

reactant | sodium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 24.48 mmol, 8.39 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 8-oxa-bicyclo[3.2.1]octan-3-one | 15.3 mmol, 1.93 g | C12CC(CC(CC1)O2)=O | C7H10O2
solvent | THF | 98 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 24.48 mmol, 24.48 ml | C1CCOC1 | C4H8O
product | 3-Methoxymethylene-8-oxa-bicyclo[3.2.1]octane | COC=C1CC2CCC(C1)O2 | C9H14O2
